US06194487B1
Next, the terephthaloyl chloride vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 2 minutes. Consequently, terephthaloyl chloride condensed on the surface of the base particles. A polymerization reaction took place between terephthaloyl chloride condensed on the surface of the base particles and bisphenol A of the base particles, forming a film of bisphenol A—terephthaloyl chloride co-polymer on the surface of the base particles.

reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
product | bisphenol A terephthaloyl chloride | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | InChI=1S/C15H16O2.C8H4Cl2O2/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;9-7(11)5-1-2-6(4-3-5)8(10)12/h3-10,16-17H,1-2H3;1-4H
